US08133909B2
(4-Chloro-3-ethyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine
In analogy to the procedure described for the synthesis example 71 (step 1), the title compound (4-chloro-3-ethyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine (MS m/e: 329.2 [M+H]+) was prepared from 4-bromo-1-chloro-2-ethylbenzene instead of 6-bromo-2,3-dihydro-benzofuran and 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine instead of 2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine.

reactant | 4-bromo-1-chloro-2-ethylbenzene | BrC1=CC(=C(C=C1)Cl)CC | C8H8BrCl
reactant | 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine | FC(C=1C=CC(=NC1)CCN)(F)F | C8H9F3N2
product | (4-chloro-3-ethyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine | ClC1=C(C=C(C=C1)NCCC1=NC=C(C=C1)C(F)(F)F)CC | C16H16ClF3N2
